US04638067
A suspension of 5.7 g (0.15 mole) of lithium aluminum hydride in 200 ml of dry tetrahydrofuran was treated portionwise with 18.6 g (75 mmole) of solid 3-cyano-1-(diphenylmethyl)azetidine. When the addition was complete, the reaction was stirred at room temperature for two hours, refluxed for four hours, and stirred at room temperature for 18 hours. The reaction was decomposed by the successive addition of 6 ml of water, 6 ml of 15% sodium hydroxide, and 18 ml of water, titrating the final water addition to give a granular precipitate. The inorganic precipitate was removed by filtration, washed with tetra hydrofuran and evaporated in vacuo to give 16.9 g of 1-(diphenylmethyl)-3-azetidinemethanamine as a heavy oil.

reactant | lithium aluminum hydride | 0.15 mole, 5.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-cyano-1-(diphenylmethyl)azetidine | C(#N)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H16N2
reactant | water | 6 ml | O | H2O
reactant | sodium hydroxide | 6 ml | [OH-].[Na+]
reactant | water | 18 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(diphenylmethyl)-3-azetidinemethanamine | 16.9 g | C1(=CC=CC=C1)C(N1CC(C1)CN)C1=CC=CC=C1 | C17H20N2
